US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (200 mg) is dissolved in isopropanol (1 ml), then thereto are added copper iodide (2.7 mg), ethylene glycol (31 μl), potassium phosphate (119 mg) and 2-methylaminoethanol (20 μl), and the mixture is heated to 80° C. under nitrogen flow, and stirred for 20 hours. After adding distilled water, the mixture is extracted with ether. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=9:1→3:7) to give (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[methyl-(2-hydroxyethyl)]-aminopyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (58.2 mg). MS (m/z): 657 [M+H]+.

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)I)CC | C27H26F6IN5O3
reactant | ethylene glycol | 31 μl | C(CO)O | C2H6O2
reactant | potassium phosphate | 119 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-methylaminoethanol | 20 μl | CNCCO | C3H9NO
reactant | isopropanol | 1 ml | C(C)(C)O | C3H8O
catalyst | copper iodide | 2.7 mg | [Cu](I)I
product | (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[methyl-(2-hydroxyethyl)]-aminopyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 58.2 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC(=C(C(=N1)N)CC(O)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C30H34F6N6O4
